Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: Laparoscopic Sleeve Gastrectomy (longitudinal)

 
History of Present Illness:
Per Dr. ___ has class II severe obesity with 
weight of 242.2 pounds as of ___ with his initial screen 
weight of 243.9 pounds on ___, height of 69 inches and BMI 
of 35.8.  His previous weight loss efforts have included Weight 
Watchers, Slim-Fast, over-the-counter dietary supplements such 
as laxatives, self- initiated diets with ___ visits 
losing up to about 10 pounds but his weight loss attempts have 
failed to produce significant and/or lasting results.  He has 
not taken prescription weight loss medications.  He stated that 
his lowest weight was 210 pounds in his early ___ and his 
highest weight was 255 pounds one year ago.  He weighed 239 
pounds in ___.  He stated that he has been struggling with 
weight for at least ___ years and cites as factors contributing 
to his excess weight genetics, large portions and lack of 
exercise.  He stated that he is active at work being on his feet 
all day and walking around. He denied history of eating 
disorders and he is not a binge eater.  He does not have a 
clinical diagnosis of depression except for reactive and 
situational anxiety, has not been seen by a therapist nor has he 
been hospitalized for mental health issues and he is not on any 
psychotropic medications.

 
Past Medical History:
His medical history is significant for:

1)  hypertension
2)  type 2 diabetes with hemoglobin A1c of 7.1%
3)  hyperlipidemia not on medication with excellent lipid 
profile
4)  history of kidney stones
5)  hepatic steatosis by ultrasound study
6)  recurrent urinary tract infections
7)  vitamin D deficiency
8)  iron deficiency with saturation of 16%
9)  chronic diarrhea recently worked up by GI with colonoscopy 
    and stool studies
10) prostatic enlargement

His surgical history is noted for right urethral surgery in 
___.
 
Social History:
___
Family History:
His family history is noted for father living with obesity and 
daughter with history of asthma.
 
Physical Exam:
Discharge Physical Exam
Vitals: 98.4 PO 114/78 R Sitting 74 19 99 ra 
Gen: Awake, alert, NAD
CV: RRR
Pulm: No resp distress
Abd: Soft, appropriately tender, nondistended, incisions CDI, no 
erythema/induration
Ext: No CCE
Neuro: Grossly intact
 
Pertinent Results:
___ 11:44AM BLOOD Hct-46.4 (PACU)
___ 06:22AM BLOOD Hct-43.2 (POD1)

___ BAS/UGI AIR/SBFT No evidence of leak or obstruction.
 
Brief Hospital Course:
The patient presented to pre-op on ___. Pt was evaluated 
by anaesthesia. The patient was taken to the operating room for 
a laparoscopic sleeve gastrectomy for obesity. Please see the 
operative note for details, procedure was without complications. 
Pt was 
extubated, taken to the PACU until stable, then transferred to 
the ward for observation.  
.
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a PCA. Pain was 

very well controlled. The patient was then transitioned to 
crushed/liquid oral pain medication once tolerating a stage 2 
diet.  
.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. Home 
medications were restarted when taking PO with the exception of 
aspirin which is to be restarted POD3
.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 

toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
.
GI/GU/FEN: The patient was initially kept NPO. On POD1 the 
patient had an upper GI series which revealed no leak. As a 
result, his NGT was removed and the patient was started on a 
stage 1 bariatric diet, which he tolerated well. Subsequently, 
the patient was advanced to stage 2, and then stage 3 diet which 

the patient was tolerating on day of discharge. His blood sugars 
were noted to be as low as 65 on the day of discharge, but he 
did not have any symptoms of hypoglycemia and remained alert, 
oriented, able to ambulate. He continued to tolerate PO and was 
discharged with instructions to maintain consistent nutritional 
support per Stage 3 diet guidelines. 
.
ID: The patient's fever curves were closely watched for signs of 

infection, of which there were none.
.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible. 
.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 3 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 800 mg PO Q8H:PRN pain 
2. Lisinopril 20 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1. Lisinopril 20 mg PO DAILY 
2. Acetaminophen (Liquid) 650 mg PO Q6H 
3. OxycoDONE Liquid ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg/5 mL ___ ml by mouth every four (4) hours 
Refills:*0
4. Ranitidine (Liquid) 150 mg PO BID 
RX *ranitidine HCl 15 mg/mL 10 ml by mouth twice a day Disp 
#*600 Milliliter Refills:*0
5. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during this admission. You 
underwent a laparoscopic sleeve gastrectomy and tolerated the 
procedure well. You are ready to continue your recovery at home 
with the following instructions.

Please call your surgeon or return to the emergency department 
if you develop a fever greater than 101.5, chest pain, shortness 

of breath, severe abdominal pain, pain unrelieved by your pain 
medication, severe nausea or vomiting, severe abdominal 
bloating, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness or swelling around your 
incisions, or any other symptoms which are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance diet, do not drink out of a straw or chew 
gum 

Do not resume the vitamins you previously took. If another 
provider wants you to start taking a new medication you need to 
let them know you had a sleeve gastrectomy, and CRUSH ALL PILLS.

You will be starting some new medications: 
1. You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications. 
2. You should begin taking a chewable complete multivitamin with 

minerals. No gummy vitamins.
3. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern. You may also use senna as needed.
4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system. 

Activity: 
-No heavy lifting of items ___ pounds for 6 weeks.
-You may resume moderate exercise at your discretion
-No abdominal exercises. 

Wound Care: 
-You may shower, no tub baths or swimming.
-If there is clear drainage from your incisions, cover with 
clean, dry gauze. Your steri-strips will fall off on their own.

We wish you the best,
Your ___ Team
 
Followup Instructions:
___